US04585591
Benzene and saturated saline were added to the reaction mixture to extract the product into benzene. The separated benzene layer was further washed three times with saturated saline, dried over anhydrous sodium sulfate and concentrated to give crystals. The high-speed liquid chromatographic analysis of the crystals showed that 17β-ethynyl-17α-hydroxyandrosta-1,4-diene-3-one and 17-ethynylandrosta-1,4,16-trien-3-one were formed in yields of 63 mol % and 32 mol %, respectively.

reactant | 17β-ethynyl-17α-hydroxyandrosta-1,4-diene-3-one | C(#C)[C@@]1([C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(C=C[C@]3(C)[C@H]1CC2)=O)O | C21H26O2
solvent | Benzene | C1=CC=CC=C1 | C6H6
product | 17-ethynylandrosta-1,4,16-trien-3-one | C(#C)C=1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(C=C[C@]3(C)[C@H]1CC2)=O | C21H24O
